US08802860B2
N-Bromosuccinimide/Toluene Method
905 g (5.83 mol) of 2-fluoro-5-nitrotoluene and 1038 g (5.83 mol) of N-bromosuccinimide were introduced as initial charge in 5.83 l of chloroform, 47.8 g (0.29 mol) of 2,2′-azobis[isobutyronitrile] were added and the reaction mixture was heated at reflux for 18 h. After cooling to RT, the liquid was filtered off from the solid by suction and the filtrate was divided into three portions. These were absorbed in each case on 1.5 kg of silica gel (0.06-0.2) and chromatographically purified on in each case 10 kg of silica gel with 160 l of ethyl acetate:petroleum ether (2.5:97.5). The product fractions were combined and evaporated to dryness on a rotary evaporator, and the residue was extracted by stirring with petroleum ether for 10 min. The solid was filtered off with suction, after-washed with petroleum ether and dried in vacuo. 385 g (28%) were obtained.

reactant | 2-fluoro-5-nitrotoluene | 5.83 mol, 905 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | N-bromosuccinimide | 5.83 mol, 1038 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis[isobutyronitrile] | 0.29 mol, 47.8 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | chloroform | 5.83 l | C(Cl)(Cl)Cl | CHCl3
product | N-Bromosuccinimide Toluene | BrN1C(CCC1=O)=O.C1(=CC=CC=C1)C | InChI=1S/C7H8.C4H4BrNO2/c1-7-5-3-2-4-6-7;5-6-3(7)1-2-4(6)8/h2-6H,1H3;1-2H2
